US05464781
A solution of 3-(4-nitrophenoxy)propane-1,2-diol (5.0 g) in absolute ethanol (250 ml) was hydrogenated at atmospheric pressure in the presence of 10% palladium on charcoal (150 mg). After the uptake of hydrogen had ceased, the catalyst was removed by filtration. The filtrate was evaporated under reduced pressure to give 3-(4-aminophenoxy)propane-1,2-diol as a solid which was used without further purification.

reactant | 3-(4-nitrophenoxy)propane-1,2-diol | 5.0 g | [N+](=O)([O-])C1=CC=C(OCC(CO)O)C=C1 | C9H11NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | 3-(4-aminophenoxy)propane-1,2-diol | NC1=CC=C(OCC(CO)O)C=C1 | C9H13NO3
